US04138485
Preparation of N-(4-methylbenzylthiocarbonyl)-L-phenylalanyl-L-phenylalanine methylester
4.0 G (0.01 mol) of L-phenylalanyl-L-phenylalanine methylester hydrobromide was dissolved in 50 ml of water. To the solution was added 10 ml of an ether solution containing 2.21 g (0.011 mol) of 4-methylbenzylthiocarbonylchloride and was further dropwise added an aqueous solution containing 2.28 g (0.022 mol) of triethylamine for 15 minutes. After this, the mixture was stirred for 30 minutes while cooling with ice and was further stirred at room temperature for 4 hours. After completion of reaction, the reaction mixture was extracted with about 50 ml of ethylacetate. The ethylacetate layer was washed with 2N hydrochloric acid and then with water and was dried over anhydrous sodium sulfate. After drying, the drying agent was filtered. After removing the solvent of filtrate by evaporation in vacuo, the resultant solid material was recrystallized from 25 ml of ethylacetate and about 40 ml of n-hexane to obtain 3.7 g of white crystals.

reactant | L-phenylalanyl-L-phenylalanine methylester hydrobromide | 0.01 mol | Br.COC([C@@H](NC([C@@H](N)CC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O
reactant | ether | 10 ml | CCOCC | C4H10O
reactant | 4-methylbenzylthiocarbonylchloride | 0.011 mol, 2.21 g | CC1=CC=C(CC(=S)Cl)C=C1 | C9H9ClS
reactant | triethylamine | 0.022 mol, 2.28 g | C(C)N(CC)CC | C6H15N
solvent | water | 50 ml | O | H2O
product | N-(4-methylbenzylthiocarbonyl)-L-phenylalanyl-L-phenylalanine methylester | 3.7 g, Yield: 75.5% | COC([C@@H](NC([C@@H](NC(=S)CC1=CC=C(C=C1)C)CC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O | C28H30N2O3S
